US06028035
Two drops of dimethylformamide and 11.90 g (0.1 mol) of thionyl chloride were added to a solution of 5.00 g (0.02 mol) of methyl 2,4-dichloro-3-hydroxycarbonylbenzoate and 50 ml of dry toluene. The solution was refluxed for 4 hours. After the solvent had been distilled off, 5.35 g of methyl 3-chlorocarbonyl-2,4-dichlorobenzoate were obtained.

reactant | thionyl chloride | 0.1 mol, 11.90 g | S(=O)(Cl)Cl | Cl2OS
reactant | methyl 2,4-dichloro-3-hydroxycarbonylbenzoate | 0.02 mol, 5.00 g | ClC1=C(C(=O)OC)C=CC(=C1C(=O)O)Cl | C9H6Cl2O4
catalyst | dimethylformamide | Two drops | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-chlorocarbonyl-2,4-dichlorobenzoate | 5.35 g | ClC(=O)C=1C(=C(C(=O)OC)C=CC1Cl)Cl | C9H5Cl3O3
